US09212182B2
To a solution of (E)-1-(5-(benzylthio)-2-fluorophenyl)-3-((4-bromo-5-fluoro-2-methoxyphenyl)amino)but-2-en-1-one (3.7 g, 7.34 mmol) in dimethyl sulfoxide (20 mL) was added potassium carbonate (2.028 g, 14.67 mmol), and the reaction was stirred at 80° C. After 2 hours, the reaction mixture was cooled to ambient temperature and partitioned between water and ethyl acetate. The organic layer was concentrated and purified by column chromatography, eluting with 20-60% (3:1 ethanol/ethyl acetate) in heptane, to provide 6-(benzylthio)-1-(4-bromo-5-fluoro-2-methoxyphenyl)-2-methylquinolin-4(1H)-one (2.2 g, 4.54 mmol, 61.9% yield) as an off-white solid. LC/MS (ESI+): m/z (ESI) 484.0, 486.0 (M+H; two bromine isotopes).

reactant | (E)-1-(5-(benzylthio)-2-fluorophenyl)-3-((4-bromo-5-fluoro-2-methoxyphenyl)amino)but-2-en-1-one | 7.34 mmol, 3.7 g | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)C(\C=C(/C)\NC1=C(C=C(C(=C1)F)Br)OC)=O)F | C24H20BrF2NO2S
reactant | potassium carbonate | 14.67 mmol, 2.028 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
product | 6-(benzylthio)-1-(4-bromo-5-fluoro-2-methoxyphenyl)-2-methylquinolin-4(1H)-one | 4.54 mmol, 2.2 g, 61.9% yield | C(C1=CC=CC=C1)SC=1C=C2C(C=C(N(C2=CC1)C1=C(C=C(C(=C1)F)Br)OC)C)=O | C24H19BrFNO2S
